US06998497B2
Indium(III) Bis-triflimide
5.0 g of Indium (III) hydroxide was dissolved in 50 ml of water and to which 27.0 g of HNTf2 was added and stirred at room temperature for 24 hours. The reaction mixture was filtered and the filtrate was concentrated on a rotary evaporator and dried under vacuum (1 mmHg) for 3 days at 120° C. The unpurified indium(III) bis-triflimide was found to be an excellent Friedel-Crafts catalyst for the reaction of toluene, anisole and xylene with benzoyl chloride or benzoic anhydride.

reactant | Indium (III) hydroxide | 5.0 g | [OH-].[In+3].[OH-].[OH-]
reactant | HNTf2 | 27.0 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | water | 50 ml | O | H2O
product | Indium(III) Bis-triflimide | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[In+3] | InChI=1S/2C2HF6NO4S2.In/c2*3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/h2*9H;/q;;+3
